US09145392B2
Step 2: tert-butyl 4-(4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate
A solution of tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate (20.04 g, 79.74 mmol) in THF (450 mL) was cooled to −46 C (bath) before the flask was charged with NBS (14.27 g) in equal portions (10-min apart). LCMS data indicated complete reaction after 15 min, so the contents were concentrated to a yellow, solid foam that was further dried under vacuum overnight. The crude material (monobromide:dibromide=40:27) was purified by chromatography to give pure white solid (8.08 g, 24.47 mmol, 31%) as the title compound.

reactant | tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate | 79.74 mmol, 20.04 g | N1C(=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O2
reactant | NBS | 14.27 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate | BrC=1N=C(NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20BrN3O2
